US04754040
The compound 2,4-dichloro-6-nitroazidobenzene is dissolved in glacial acetic acid then refluxed for several hours to yield 4,6-dichlorobenzofuroxan. This step is similar to that described in Boulton et al., J. Chem. Soc. B., p. 909 (1967) except that the present invention uses a longer reflux time.

reactant | 2,4-dichloro-6-nitroazidobenzene | ClC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])N=[N+]=[N-] | C6H2Cl2N4O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4,6-dichlorobenzofuroxan | C1=C(C=C(C2=NO[N+](=C21)[O-])Cl)Cl | C6H2Cl2N2O2
